US09371295B2
Step 2: 2-methoxyquinoline-3-carbohydrazide
tert-Butyl 2-(2-methoxyquinoline-3-carbonyl)hydrazinecarboxylate (1.23 g, 3.87 mmol) was dissolved in DCM (10 mL) and cooled to 0° C. Trifluoroacetic acetic acid (10 mL) was added and the mixture was stirred at room temperature for 1 h. Solvents were evaporated and the residue was washed with water. The product was used without purification in the next step. MS (ES) C11H11N3O2 requires: 217.22, found: 218.

reactant | tert-Butyl 2-(2-methoxyquinoline-3-carbonyl)hydrazinecarboxylate | 3.87 mmol, 1.23 g | COC1=NC2=CC=CC=C2C=C1C(=O)NNC(=O)OC(C)(C)C | C16H19N3O4
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxyquinoline-3-carbohydrazide | COC1=NC2=CC=CC=C2C=C1C(=O)NN | C11H11N3O2
